* Sky130 transistor-level rising-edge divide-by-two flip-flop.

.subckt div2_inv a y vdd vss
XP y a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=2.4 nf=1
XN y a vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=2.4 nf=1
.ends div2_inv

.subckt div2_nor2 a b y vdd vss
XP0 pmid a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=2.4 nf=1
XP1 y b pmid vdd sky130_fd_pr__pfet_01v8 l=0.15 w=2.4 nf=1
XN0 y a vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=2.4 nf=1
XN1 y b vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=2.4 nf=1
.ends div2_nor2

.subckt div2_tg a y g gb vdd vss
XN a g y vss sky130_fd_pr__nfet_01v8 l=0.15 w=2.4 nf=1
XP a gb y vdd sky130_fd_pr__pfet_01v8 l=0.15 w=2.4 nf=1
.ends div2_tg

.subckt div2_buf0 a y vdd vss
XP y a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=1.2 nf=1
XN y a vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=4.8 nf=1
.ends div2_buf0

.subckt div2_buf1 a y vdd vss
XP y a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=10 nf=1
XN y a vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=0.9 nf=1
.ends div2_buf1

* Master-slave D flip-flop with asynchronous reset.
.subckt div2_dffr d ckb cki reset q vdd vss
XTGM d mm ckb cki vdd vss div2_tg
XI0 mm mmb vdd vss div2_inv
XI1 mmb mfb vdd vss div2_inv
XTGF mfb mm cki ckb vdd vss div2_tg
XTGS mmb sm cki ckb vdd vss div2_tg
XNQ sm reset q vdd vss div2_nor2
XI2 q sfb vdd vss div2_inv
XTGB sfb sm ckb cki vdd vss div2_tg
.ends div2_dffr

.subckt divide_by_2 clk reset vdd vss clkout
XCLK0 clk ckb vdd vss div2_inv
XCLK1 ckb cki vdd vss div2_inv
XFB qstate d vdd vss div2_inv
XFF d ckb cki reset qstate vdd vss div2_dffr
CSTATE qstate vss 18f
XBUF0 qstate qb vdd vss div2_buf0
XBUF1 qb clkout vdd vss div2_buf1
XOUTRST clkout reset vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=4.8 nf=1
.ends divide_by_2
